US08476294B2
A mixture of 3-amino-5-bromo-2-fluoropyridine (Matrix Scientific, Columbia, S.C., USA, 1.571 mmol) in DMF (3 ml) and 55% NaH in oil (1.571 mmol) was stirred for 15 min at rt. Was added iodomethane (Aldrich, Buchs, Switzerland, 1.571 mmol) and the RM was stirred for 13 h at rt. The RM was diluted with EtOAc, washed with brine (4×), dried over Na2SO4, filtered and evaporated. The residue was absorbed on silica gel and purified by flash chromatography (heptane/EtOAc 0% to 40%). The fraction containing the first eluting product were evaporated to give (5-bromo-2-fluoro-pyridin-3-yl)-dimethyl-amine as an orange oil (HPLC: tR 3.15 min (Method A); M+H=219, 221 MS-ES) and the fraction containing the second eluting product were evaporated to give the title compound as a red solid (HPLC: tR 2.90 min (Method A); M+H=205, 207 MS-ES).

reactant | 3-amino-5-bromo-2-fluoropyridine | 1.571 mmol | NC=1C(=NC=C(C1)Br)F | C5H4BrFN2
reactant | iodomethane | 1.571 mmol | IC | CH3I
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | NaH | [H-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-bromo-2-fluoro-pyridin-3-yl)-dimethyl-amine | BrC=1C=C(C(=NC1)F)N(C)C | C7H8BrFN2
